US06627651B1
Into a solution of crude methyl 7-[[2-(2-propoxyethoxy)benzyl]oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate in THF-methanol (10-5 ml) was added at room temperature an aqueous solution (2.1 ml) of potassium carbonate (622 mg), and the resulting mixture was stirred at 60° C. for 24 hours. After cooling to room temperature, the reaction mixture was extracted with ethyl acetate. To the aqueous layer was added 1 N hydrochloric acid (10 ml), and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride, and was dried with magnesium sulfate. The resulting organic layer was concentrated under reduced pressure to obtain 7-[[2-(2-propoxyethoxy)benzyl]oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (136 mg) as a yellow amorphous substance.

reactant | methyl 7-[[2-(2-propoxyethoxy)benzyl]oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | C(CC)OCCOC1=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=CC=C1 | C24H28O7S
reactant | potassium carbonate | 2.1 ml, 622 mg | C([O-])([O-])=O.[K+].[K+]
solvent | THF methanol | 10-5 ml | C1CCOC1.CO
product | 7-[[2-(2-propoxyethoxy)benzyl]oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 136 mg | C(CC)OCCOC1=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)O)C2)C=CC=C1 | C23H26O7S
